US04870074
Preparation of 2-acetylaminomethyl-4-benzylmorpholine
A mixture of N-[(4-benzyl-2-morpholinyl)methyl]phthalimide (162 g), 85% hydrazine hydrate (43.3 g), and ethanol (100 ml) is refluxed with stirring for 20 minutes. The reaction mixture is filtered, and the filtrate is diluted with water and extracted with chloroform. The organic layer is separated, washed with a small amount of water and then with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and filtered. To the filtrate is added slowly acetic anhydride (98.3 g), and the resulting mixture is stirred at 25° C. for 2 hours. The reaction mixture is washed successively with aqueous sodium hydroxide solution, water and saturated aqueous sodium chloride solution, and dried over magnesium sulfate. The solvent is distilled off under reduced pressure, and the residue is recrystallized from toluene to give the title compound (101 g), mp 110°-111° C.

reactant | N-[(4-benzyl-2-morpholinyl)methyl]phthalimide | 162 g | C(C1=CC=CC=C1)N1CC(OCC1)CN1C(C=2C(C1=O)=CC=CC2)=O | C20H20N2O3
reactant | hydrazine hydrate | 43.3 g | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-acetylaminomethyl-4-benzylmorpholine | 101 g | C(C)(=O)NCC1CN(CCO1)CC1=CC=CC=C1 | C14H20N2O2
